US08664409B2
Step 1. Preparation of {3-[benzyloxycarbonyl-(4-benzyloxycarbonylaminobutyl)-amino]-propylamino}-acetic acid ethyl ester
To a solution of 6.35 g (15.4 mmol) of (3-aminopropyl)-(4-benzyloxycarbonyl-aminobutyl)-carbamic acid benzyl ester (Synth. Commun. 2005, 35, 1085) in 200 mL of acetonitrile, and 2.6 mL (1.86 g, 15.4 mmol) of triethylamine, there are introduced, with stirring, at ambient temperature, 1.70 mL (2.56 g, 15.4 mmol) of ethyl bromoacetate. Stirring is maintained for 4 hours. The reaction mixture is poured into water and extracted with ethyl acetate. The organic phases are separated off and then dried over sodium sulfate, filtered and evaporated. 7.7 g of an oil are obtained, which is used directly in the following step.

reactant | (3-aminopropyl)-(4-benzyloxycarbonyl-aminobutyl)-carbamic acid benzyl ester | 15.4 mmol, 6.35 g | C(C1=CC=CC=C1)OC(N(CCCC(C(=O)OCC1=CC=CC=C1)N)CCCN)=O | C23H31N3O4
reactant | triethylamine | 15.4 mmol, 2.6 mL, 1.86 g | C(C)N(CC)CC | C6H15N
reactant | ethyl bromoacetate | 15.4 mmol, 1.70 mL, 2.56 g | BrCC(=O)OCC | C4H7BrO2
reactant | water | O | H2O
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | {3-[benzyloxycarbonyl-(4-benzyloxycarbonylaminobutyl)-amino]-propylamino}-acetic acid ethyl ester | 7.7 g | C(C)OC(CNCCCN(CCCCNC(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)=O | C27H37N3O6
